US20010020034A1
5-(3-{4-[4-(2-Hydroxy-ethyl)-piperazin-1-yl]-butyl}-ureido)-3-(2,3,6-trifluoro-4-methyl-benzyloxy)-isothiazole-4-carboxylic acid amide
The title compound was prepared from [4-carbamoyl-3-(2,3,6-trifluoro-4-methyl-benzyloxy)-isothiazol-5-yl]-carbamic acid phenyl ester and 2-[4-(4-amino-butyl)-piperazin-1-yl]-ethanol by the procedure analogous to Example 1. MS (APCl, m/z): 545 [M+H]+.

reactant | [4-carbamoyl-3-(2,3,6-trifluoro-4-methyl-benzyloxy)-isothiazol-5-yl]-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NC1=C(C(=NS1)OCC1=C(C(=C(C=C1F)C)F)F)C(N)=O)=O | C19H14F3N3O4S
reactant | 2-[4-(4-amino-butyl)-piperazin-1-yl]-ethanol | NCCCCN1CCN(CC1)CCO | C10H23N3O
product | 5-(3-{4-[4-(2-Hydroxy-ethyl)-piperazin-1-yl]-butyl}-ureido)-3-(2,3,6-trifluoro-4-methyl-benzyloxy)-isothiazole-4-carboxylic acid amide | OCCN1CCN(CC1)CCCCNC(NC1=C(C(=NS1)OCC1=C(C(=C(C=C1F)C)F)F)C(=O)N)=O | C23H31F3N6O4S
